US04423068
5-Aminooxyvaleric acid is prepared in the same manner using the procedure of Preparation 6 for 4-aminooxybutyric acid except that the γ-butyrolactone is replaced by γ-valerolactone.

reactant | 4-aminooxybutyric acid | NOCCCC(=O)O | C4H9NO3
reactant | γ-butyrolactone | C1(CCCO1)=O | C4H6O2
reactant | γ-valerolactone | C1(CCC(C)O1)=O | C5H8O2
product | 5-Aminooxyvaleric acid | NOCCCCC(=O)O | C5H11NO3
